Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left leg ulcer
 
Major Surgical or Invasive Procedure:
___: angiogram, PTA of L ___ occlusion, popliteal stenosis, 
angioseal right groin 

 
History of Present Illness:
___ with persistent left medial calf ulcer. Given, arterial
studies suggestive of tibial occlusive disease and no evidence 
of
healing she presents today for planned pre-hydration prior to
angio tomorrow, ___. She has atrial fibrillation for which 
she
is anticoagulated with Coumadin. She has been bridged
pre-operatively with Lovenox, with her last dose given this
morning. 

 
Past Medical History:
PMH/PSH: 

1.  Status post mitral valve repair with annuloplasty ring in
___ as treatment of MVP with mitral regurgitation.
2.  Atrial fibrillation, status post failed MAZE in ___,
status post failure or adverse effects on sotalol, flecainide 
and
amiodarone.
3.  Atrial flutter, status post ablation ___, ___
___.
4.  Mild pulmonary hypertension.
5.  Lower extremity edema, venous insufficiency.
6.  ___ pacemaker placement in ___ close after time
of surgery : underlying variable heart block.

 
Social History:
___
Family History:
Mother with h/o angina, atrial fibrillation.
Brother h/o mitral valve repair

 
Physical Exam:
At admission: 

GEN: NAD, well appearing
HEENT: anicteric sclera 
CV: RRR (paced), no murmurs appreciated
PULM: CTAB anteriorly
GI: soft, NTND, + bowel sounds
EXT: warm, non-cyanotic, no clubbing or edema, 3.5 cm x 3 cm
ulcer on left shin, venous dermatitis on shins bilaterally

Pulses: 
RLE- ___ palpable, DP dopplerable
LLE- ___ dopplerable, DP dopplerable

At discharge: 

GEN: NAD
HEENT: EOMI
CV: RRR
PULM: non-labored breathing
GI: soft, nontender, nondistended, right groin soft, clean and 
dry
EXT: warm, 3.5 cm x 3 cm ulcer on left shin appears 
non-infected, venous dermatitis on shins bilaterally

Pulses: 
RLE-
LLE-

 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for pre-hydration 
prior to planned angiogram on ___. She was taken to the 
Operating Room on ___ where she underwent angiogram with PTA 
of an occluded left posterior tibial artery and stenosed left 
popliteal artery. Right groin was angiosealed. She was returned 
to the PACU in stable condition and after satisfactory recovery 
from anesthesia, she was returned to the floor for further 
monitoring. 

She had been previously bridged off her home Coumadin with daily 
Lovenox which was held on ___ and resumed post-procedure on ___. 
Coumadin was restarted per her home regimen on ___ and INR was 
*** on the day of discharge. She was instructed to follow up 
with her ___ clinic at ___ for continued management of 
her bridging therapy. 

She was started on Aspirin 81 mg daily post-procedure.

She was discharged home on ___ with instructions to follow up 
with Dr. ___ in 1 month with repeat duplex studies. At the 
time of discharge, she was ambulating independently, tolerating 
a regular diet, and voiding spontaneously. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO QHS:PRN anxiety,insomnia 
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Montelukast 10 mg PO DAILY 
6. PredniSONE 20 mg PO AS DIRECTED 
7. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
8. Warfarin 4 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left posterior tibial artery occlusion
left popliteal artery stenosis 
chronic, non-healing arterial ulcer of left lower extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for planned angiography of your left 
lower extremity as part of workup for ongoing management of a 
non-healing left leg ulcer. You were found to have an occlusion 
of one of the blood vessels in your leg and narrowing of another 
blood vessel. These vessels were opened via angioplasty. You 
have recovered well and are ready for discharge. 

MEDICATION:
• Take Aspirin 81mg (enteric coated) once daily 
• Your home Coumadin was resumed while you were here, you are 
being bridged with Lovenox (60 mg daily). Please follow-up with 
your ___ clinic at ___ for further management of your 
Coumadin.
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 
 

Thank you for allowing us to participate in your care. 

Sincerely,

Your ___ Surgery Team 

 
Followup Instructions:
___